US07745438B2
[(R)-2-(tert-butyl-dimethylsilanyloxy)-1-(1-ethoxy-2-iodoethoxymethyl)-ethyl]-carbamic acid tert-butyl ester
Dissolve [(R)-1-(tert-butyl-dimethylsilanyloxymethyl)-2-hydroxyethyl]-carbamic acid tert-butyl ester (1.0 g, 3.27 mmol) and ethyl vinyl ether (0.20 g, 2.73 mmol) in acetonitrile (20 mL) and add N-iodosuccinimide (0.735 g, 3.27 mmol). Stir at room temperature 72 hours and pour into saturated aqueous sodium chloride. Extract with ethyl acetate, wash with water and saturated aqueous sodium chloride, dry (magnesium sulfate), filter and concentrate. Purify (silica gel chromatography, eluting with 100:0 to 10:90 hexanes:ethyl acetate) to give the desired compound (462 mg, 34%).

reactant | [(R)-1-(tert-butyl-dimethylsilanyloxymethyl)-2-hydroxyethyl]-carbamic acid tert-butyl ester | 3.27 mmol, 1.0 g | C(C)(C)(C)OC(N[C@H](CO)CO[Si](C)(C)C(C)(C)C)=O | C14H31NO4Si
reactant | ethyl vinyl ether | 2.73 mmol, 0.20 g | C(=C)OCC | C4H8O
reactant | N-iodosuccinimide | 3.27 mmol, 0.735 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | [(R)-2-(tert-butyl-dimethylsilanyloxy)-1-(1-ethoxy-2-iodoethoxymethyl)-ethyl]-carbamic acid tert-butyl ester | 462 mg, 34% | C(C)(C)(C)OC(N[C@H](CO[Si](C)(C)C(C)(C)C)C(OCC)OCCI)=O | C18H38INO5Si
